US06365602B1
N-[2-(S)-(3,4-Dichlorophenyl)-4-[4-[2-(methylsulfonyl)-4-methoxyphenyl]-1-piperidinyl]-butyl]-N-methyl-3-cyano-1-naphthamide Hydrochloride
Using standard reductive amination conditions N-[2-(S)-(3,4-dichlorophenyl)-4-oxobutyl]-N-methyl-3-cyano-1-naphthamide (0.130 g) was reacted with 4-(2-methylsulfonyl-4-methoxyphenyl)piperidine (0.082 g) and the product (0.074 g) was converted to the hydrochloride salt. MS m/z 678 (M+H). 1H NMR (DMSO-d6) δ 10.57 (m, 1H), 8.62 (m, 1H), 8.10 (m, 1H), 7.95-7.00 (m, 10H), 3.83 (s, 3H), 3.32 (s, 3H), 3.64-1.65 (m, 19H).

reactant | N-[2-(S)-(3,4-dichlorophenyl)-4-oxobutyl]-N-methyl-3-cyano-1-naphthamide | 0.130 g | ClC=1C=C(C=CC1Cl)[C@@H](CN(C(=O)C1=CC(=CC2=CC=CC=C12)C#N)C)CC=O | C23H18Cl2N2O2
reactant | 4-(2-methylsulfonyl-4-methoxyphenyl)piperidine | 0.082 g | CS(=O)(=O)C1=C(C=CC(=C1)OC)C1CCNCC1 | C13H19NO3S
product | N-[2-(S)-(3,4-Dichlorophenyl)-4-[4-[2-(methylsulfonyl)-4-methoxyphenyl]-1-piperidinyl]-butyl]-N-methyl-3-cyano-1-naphthamide Hydrochloride | Cl.ClC=1C=C(C=CC1Cl)[C@@H](CN(C(=O)C1=CC(=CC2=CC=CC=C12)C#N)C)CCN1CCC(CC1)C1=C(C=C(C=C1)OC)S(=O)(=O)C | InChI=1S/C36H37Cl2N3O4S.ClH/c1-40(36(42)32-19-24(22-39)18-27-6-4-5-7-30(27)32)23-28(26-8-11-33(37)34(38)20-26)14-17-41-15-12-25(13-16-41)31-10-9-29(45-2)21-35(31)46(3,43)44;/h4-11,18-21,25,28H,12-17,23H2,1-3H3;1H/t28-;/m1./s1
